US05574064
Synthesis of N1 -[2-(4-chlorobenzyloxy)-1methylethyl]-N2 -isopropoxycarbonyl-L-valinamide (Compound No. 246)
0.5 g of N-methylpiperidine was added to a solution containing 1 g of N-isopropoxycarbonyl-L-valine dissolved in 40 ml of methylene chloride, at -20° C. After the mixture was stirred for 15 minutes at the same temperature, 0.7 g of isobutyl chloroformate was added to the mixture at -40° C., and stirred for 1 hour at -20° C. 1 g of 2-(4-chlorobenzyloxy)-1-methylethylamine was added to this mixture at -60° C., and then the reaction mixture was allowed to sit and warm naturally to room temperature while being stirred, and was stirred for 20 hours at room temperature. Water was subsequently added to the reaction mixture. After the methylene chloride layer was washed successively with a 5% aqueous solution of sodium bicarbonate and water, the organic layer was dried over anhydrous magnesium sulfate and the methylene chloride was removed under reduced pressure. The obtained oily residue was purified by column chromatography on silica gel, thus obtaining 0.9 g of the desired product in the form of a colorless plated crystal (yield: 48%).

reactant | N-methylpiperidine | 0.5 g | CN1CCCCC1 | C6H13N
reactant | N-isopropoxycarbonyl-L-valine | 1 g | C(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)O | C9H17NO4
reactant | isobutyl chloroformate | 0.7 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-(4-chlorobenzyloxy)-1-methylethylamine | 1 g | ClC1=CC=C(COCC(C)N)C=C1 | C10H14ClNO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | N1 -[2-(4-chlorobenzyloxy)-1methylethyl]-N2 -isopropoxycarbonyl-L-valinamide | 0.9 g | ClC1=CC=C(COCC(C)NC([C@@H](NC(=O)OC(C)C)C(C)C)=O)C=C1 | C19H29ClN2O4
